US06048894
(4) Preparation of tert-butyl (2RS,3RS)-2-{5-(ethoxycarbonyl)-2-furylmethyl}-3-{(2-naphthylmethyl)amino}butanoate
500 mg of tert-butyl (2RS,3RS)-3-amino-2-{5-(ethoxycarbonyl)-2-furylmethyl}butanoate in 15 ml of methanol was stirred together with 251 mg of 2-naphthaldehyde at 50° C. for 2 hours under heating. The reaction solution was cooled to 0° C. and stirred with 61 mg of sodium borohydride at the same temperature for 15 minutes. Ethyl acetate and water were added to the reaction solution for extraction, and the organic layer was washed with saturated aqueous sodium chloride and then dried over anhydrous magnesium sulfate. The desiccant was filtered off, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography [hexane/ethyl acetate=6/1] to give 555 mg of the title compound as a colorless oily substance.

reactant | tert-butyl (2RS,3RS)-3-amino-2-{5-(ethoxycarbonyl)-2-furylmethyl}butanoate | 500 mg | NC(C(C(=O)OC(C)(C)C)CC=1OC(=CC1)C(=O)OCC)C | C16H25NO5
reactant | 2-naphthaldehyde | 251 mg | C1=C(C=CC2=CC=CC=C12)C=O | C11H8O
reactant | sodium borohydride | 61 mg | [BH4-].[Na+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 15 ml | CO | CH4O
solvent | water | O | H2O
product | tert-butyl (2RS,3RS)-2-{5-(ethoxycarbonyl)-2-furylmethyl}-3-{(2-naphthylmethyl)amino}butanoate | 555 mg | C(C)OC(=O)C1=CC=C(O1)CC(C(=O)OC(C)(C)C)C(C)NCC1=CC2=CC=CC=C2C=C1 | C27H33NO5
